US04232014
5-Benzoylaminoethyl-6-methoxyindan (I)
The procedure of Example 1 was followed in reacting 5-aminoethyl-6-methylindan with benzoylchloride, using sodium carbonate in place of triethylamine, to produce the desired product. After recrystallization from ether the product melted at 104°-106° C.

reactant | 5-aminoethyl-6-methylindan | NCCC=1C=C2CCCC2=CC1C | C12H17N
reactant | benzoylchloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 5-Benzoylaminoethyl-6-methoxyindan | C(C1=CC=CC=C1)(=O)NCCC=1C=C2CCCC2=CC1OC | C19H21NO2
